US04665188
7.6 g of ethyl 5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was mixed with 6.4 g of ethyl chloroacetate. The mixture was cooled to 5°-10° C. and then a mixture of 5.9 g of potassium tertiary butoxide and 65 ml of tertiary butanol was added thereto over a period of 1 hour. The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo at a temperature not more than 30° C. The residue extracted was with diethyl ether and the extract was washed with water, dried and then concentrated in vacuo to give an oily product. The product was dissolved in 25 ml of ethanol. A solution of 0.58 g of sodium in 25 ml of ethanol, and 0.43 ml of water were added successively to the solution. The mixture was stirred at room temperature for 4 hours. Diethyl ether was added to the reaction mixture and the precipitate formed was collected by filtration. The precipitate was mixed with 10 ml of acetic acid and the mixture was heated at 100° C. for 15 minutes. After cooling, water was added to the raction mixture and the mixture was extracted with diethyl ether. The extract was washed with water, dried and then concentrated in vacuo to give 3.6 g of ethyl 5-formyl-5,6,7,8-tetrahydro-2-naphthalenecarboxylate as an oil.

reactant | ethyl 5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 7.6 g | O=C1C=2C=CC(=CC2CCC1)C(=O)OCC | C13H14O3
reactant | ethyl chloroacetate | 6.4 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium tertiary butoxide | 5.9 g | CC(C)([O-])C.[K+]
reactant | sodium | 0.58 g | [Na] | Na
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | water | 0.43 ml | O | H2O
solvent | tertiary butanol | 65 ml | C(C)(C)(C)O | C4H10O
product | ethyl 5-formyl-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 3.6 g | C(=O)C1C=2C=CC(=CC2CCC1)C(=O)OCC | C14H16O3
